US06472416B1
3-(Tert-butyl)-6-(4-(methylsulphonyl)phenyl)-7-phenylpyrazolo[5,1-b][1,3]oxazole
A mixture of 5-(4-(methylsulphonyl)phenyl)-4-phenyl-3-trimethylacetylmethoxy-pyrazole prepared according to the Example 32B [(100 mg, 0.24 mmol), p-toluenesulfonic acid hydrate (25 mg) in toluene (40 mL), and acetic acid (15 mL) was refluxed using a Dean-Stark trap to remove water, for 12 hours. The reaction mixture was concentrated in vacuo and the residue chromatographed (silica gel, 1:1 hexane/ethyl acetate) to provide the desired product (yield: 97 mg; 99%). MP 187-180° C.; MS (APCI+) m/z 395 (M+H)+; (APCI−) m/z 393 (M−H)−, 429 (M+Cl)−; 1H NMR (300 MHz, DMSO-d6) δ1.49 (s, 9H), 3.25 (s, 3H), 7.35 (m, 5H), 7.76 (d, J=9 Hz, 2H), 7.95 (s+d, J=9 Hz, 3H); Anal. calc. for C22H22N2O3S.0.5 H2O: C, 65.48; H, 5.74; N, 6.94. Found: C, 65.70; H, 5.69; N, 6.65.

reactant | 5-(4-(methylsulphonyl)phenyl)-4-phenyl-3-trimethylacetylmethoxy-pyrazole | CS(=O)(=O)C1=CC=C(C=C1)C1=C(C(=NN1)OCC(C(C)(C)C)=O)C1=CC=CC=C1 | C22H24N2O4S
reactant | p-toluenesulfonic acid hydrate | 25 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(Tert-butyl)-6-(4-(methylsulphonyl)phenyl)-7-phenylpyrazolo[5,1-b][1,3]oxazole | yield: 97 mg, 99% | C(C)(C)(C)C=1N2C(OC1)=C(C(=N2)C2=CC=C(C=C2)S(=O)(=O)C)C2=CC=CC=C2 | C22H22N2O3S
